US08440689B2
C. 6-((1R,2S)-2-Aminocyclohexylamino)-4-(3-(methylsulfonyl)phenylamino)-1H-pyrrolo[3,4-c]pyridin-3(2H)-one
A mixture of methyl 6-((1R,2S)-2-aminocyclohexylamino)-4-cyano-2-(3-(methylsulfonyl)phenylamino)nicotinate (117.3 mg, 0.264 mmol) and palladium on carbon (23.6 mg, 0.222 mmol) in MeOH (4 mL) and 1N HCl (4 mL) was stirred at RT for 16 h under a hydrogen atmosphere. The mixture was filtered to remove the catalyst and the filtrate was treated with saturated aq NaHCO3 (20 mL) and stirred at RT for 20 h. The mixture was concentrated under reduced pressure and the residue was extracted with EtOAc/THF (2/1, 2×30 mL). The organic layers were washed with saturated aq NaHCO3 (15 mL), water (15 mL) and brine (15 mL), were dried over anhydrous Na2SO4, and then filtered. The filtrate was concentrated under reduced pressure and the residue was purified by column chromatography (DM1020, EtOAc/MeOH=20/1) to give the desired product (37.2 mg, 34%). The product was recrystallized from EtOH to give the title compound as a colorless solid (13.2 mg, 12%). 1H-NMR (DMSO-d6) δ ppm 1.31-1.41 (m, 4H), 1.55-1.68 (m, 6H), 3.05 (s, 1H), 3.21 (s, 3H), 4.08 (s, 1H), 4.23 (s, 2H), 6.17 (s, 1H), 6.78-6.79 (m, 1H), 7.46-7.47 (m, 1H), 7.53-7.56 (m, 1H), 7.96-7.99 (m, 2H), 8.49 (s, 1H), 9.18 (s, 1H).

reactant | methyl 6-((1R,2S)-2-aminocyclohexylamino)-4-cyano-2-(3-(methylsulfonyl)phenylamino)nicotinate | 0.264 mmol, 117.3 mg | N[C@@H]1[C@@H](CCCC1)NC1=NC(=C(C(=O)OC)C(=C1)C#N)NC1=CC(=CC=C1)S(=O)(=O)C | C21H25N5O4S
reactant | MeOH | 4 mL | CO | CH4O
catalyst | palladium on carbon | 0.222 mmol, 23.6 mg | [Pd] | Pd
solvent | HCl | 1N, 4 mL | Cl | ClH
product | 6-((1R,2S)-2-Aminocyclohexylamino)-4-(3-(methylsulfonyl)phenylamino)-1H-pyrrolo[3,4-c]pyridin-3(2H)-one | 37.2 mg, 34% | N[C@@H]1[C@@H](CCCC1)NC1=CC2=C(C(=N1)NC1=CC(=CC=C1)S(=O)(=O)C)C(NC2)=O | C20H25N5O3S
